US04548935
4-(2-Aminoethyl)-2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}thiazole
This compound was prepared by the method described in Example 41 but using 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}thioacetamide as starting material. The product was characterised as a hydrochloride monohydrate, m.p. 110°-112° C. Found: C,48.44; H,4.99; N,7.15. C24H27Cl2N3O5S.HCl.H2O requires: C,48.44; H,5.04; N,7.06%.

reactant | 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}thioacetamide | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(=S)N)C(=O)OCC | C20H22Cl2N2O5S
reactant | hydrochloride monohydrate | O.Cl
product | 4-(2-Aminoethyl)-2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}thiazole | NCCC=1N=C(SC1)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C24H27Cl2N3O5S
